US05273999
Preparation of (E,E)-3,3'-(4-Hydroxy-1,3-phenylene)bis-2-propenoic Acid Dimethyl Ester
A mixture of 5.0 g (33.3 mmol) of 5-formylsalicylaldehyde and 24.5 g (73.3 mmol) of methyl (triphenyl phosphoranylidene)acetate, in 150 mL of toluene was stirred and refluxed for 2.5 hr and then kept at room temperature overnight. The solvent was removed in vacuo and the solid residue was flash-chromatographed on silica gel. There was obtained 8.07 g (92.5%) of the title compound as a colorless solid.

reactant | 5-formylsalicylaldehyde | 33.3 mmol, 5.0 g | C(=O)C1=CC=C(C(C=O)=C1)O | C8H6O3
reactant | methyl (triphenyl phosphoranylidene)acetate | 73.3 mmol, 24.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | (E,E)-3,3'-(4-Hydroxy-1,3-phenylene)bis-2-propenoic Acid Dimethyl Ester | 8.07 g, 92.5% | COC(\C=C\C1=CC(=C(C=C1)O)/C=C/C(=O)OC)=O | C14H14O5
